US08669266B2
4-[(S)-2-({4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-4-ethoxycarbonyl-butyryl]-piperazine-1-carboxylic acid ethyl ester
To 100 ml of a saturated solution of hydrochloric acid in ethanol 5 g of 4-[(S)-4-tert-Butoxycarbonyl-2-({4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester was added and the mixture was stirred for 2 h. Then, 30 ml of toluene was added and the solvents were removed under reduced pressure. The residue was filtered through a plug of silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. The residue was purified by re-crystallisation from n-heptane/ethyl acetate and dried under reduced pressure. Yield: 3.8 g MS (ES+): m/e=709.

reactant | hydrochloric acid | Cl | ClH
reactant | 4-[(S)-4-tert-Butoxycarbonyl-2-({4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)=O | C38H52N6O9
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 g | C(C)O | C2H6O
product | 4-[(S)-2-({4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-4-ethoxycarbonyl-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OCC)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)=O | C36H48N6O9
